data/oMe_Silver.jsonl
{"reaction_id": "NR-105_1-OC_2-SC_3-C(=O)OC_4-OC_5-CC","level": "medium","name": "Hemetsberger-Knittel Indole Synthesis","reactants_smiles": ["[N-]=[N+]=N/C(=C/c1c(OC)c(C(=O)OC)c(SC)c(OC)c1)\\C(=O)OCC"],"products_smiles": ["c1c(C(=O)OCC)[nH]c2c1c(OC)c(C(=O)OC)c(SC)c2OC"],"conditions": "Heat","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[N]/C(=C/c1c(OC)c(C(=O)OC)c(SC)c(OC)c1)\\C(=O)OCC","step_weight": 0,"rationale": "Thermal conditions promote loss of N₂ from the azide due to its excellent leaving group ability, generating an electron-deficient nitrene stabilized by conjugation with the alkene."},{"step": 2,"type": "pericyclic","subtype": "electrocyclization","intermediate_smiles": "CCOC(=O)C1C=C2C(=[n]1)c(c(c(c2OC)C(=O)OC)SC)OC","step_weight": 0,"rationale": "The nitrene undergoes a 6π-electrocyclization driven by conjugation between the alkene and aromatic ring, forming the bicyclic indole skeleton under thermal control."},{"step": 3,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "c1c(C(=O)OCC)[nH]c2c1c(OC)c(C(=O)OC)c(SC)c2OC","step_weight": 0,"rationale": "A sigmatropic hydrogen shift restores aromaticity in the heterocycle, as aromatization provides strong thermodynamic driving force for the rearrangement."}],"description": "Upon heating, the azide undergoes nitrogen extrusion to form a reactive nitrene intermediate, which then cyclizes via electrocyclization to form the indole framework. A subsequent sigmatropic rearrangement aromatizes the ring, yielding the substituted indole product."}
{"reaction_id": "NR-106_1-CC(C)C_2-C1CC1_3-c1ccccc1_4-C","level": "medium","name": "Henry Reaction","reactants_smiles": ["C(CC(C)C)(C1CC1)[N+](=O)[O-]","C(c1ccccc1)(C)=O","[OH-]"],"products_smiles": ["C(c1ccccc1)(C)(O)C(CC(C)C)(C1CC1)[N+](=O)[O-]"],"conditions": "Base","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CC(C)C)(C1CC1)=[N+]([O-])[O-]","step_weight": 0,"rationale": "The base abstracts the acidic α-proton next to the nitro group, as the resulting nitronate anion is resonance-stabilized by delocalization onto the electron-withdrawing nitro group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccccc1)(C)([O-])C(CC(C)C)(C1CC1)[N+](=O)[O-]","step_weight": 0,"rationale": "The nucleophilic nitronate carbon attacks the electrophilic carbonyl carbon, favored by the strong polarization of the C=O bond and minimal steric hindrance at the carbonyl center."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccccc1)(C)(O)C(CC(C)C)(C1CC1)[N+](=O)[O-]","step_weight": 0,"rationale": "The alkoxide intermediate is protonated by solvent or conjugate acid, driven by the strong thermodynamic preference for neutral alcohol formation."}],"description": "Under basic conditions, the α-proton of the nitroalkane is deprotonated to form a resonance-stabilized nitronate anion, which then nucleophilically attacks the carbonyl carbon of the aldehyde/ketone. Subsequent protonation of the alkoxide yields the β-nitro alcohol product."}
{"reaction_id": "NR-228_1-C(F)(F)F_2-C#N_3-C1CCC1_4-C(C)(C)C_5-CC","level": "easy","name": "Prilezhaev Reaction","reactants_smiles": ["C(C(F)(F)F)=C(C#N)(C1CCC1)","C(C)(C)CC(=O)OCC"],"products_smiles": ["C(C(F)(F)F)1OC1(C#N)C1CCC1"],"conditions": "Peroxy acid","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(C(F)(F)F)1OC1(C#N)C1CCC1","step_weight": 0,"rationale": "The alkene π electrons attack the electrophilic oxygen of the peroxy acid due to its polarization by the adjacent carbonyl, enabling a concerted transition state that minimizes charge separation and forms the epoxide efficiently."}],"description": "The alkene undergoes electrophilic addition with the peroxy acid in a concerted Prilezhaev epoxidation, where the π bond attacks the electrophilic terminal oxygen of the peracid, forming a three-membered epoxide ring in a single step under mild conditions."}
